### PR TITLE
Add /-cancelˡ to Data.Nat.DivMod (#1165)

### PR DESCRIPTION
**Pull request by lexvanderstoep**

### CODE REVIEW

File: src/Data/Nat/DivMod.agda [hunk 1]
```diff
@@ -223,6 +228,32 @@ m≥n⇒m/n>0 {m@(suc m-1)} {n@(suc n-1)} m≥n = begin
   n / d + (m * n) / d ≡⟨ cong (n / d +_) (*-/-assoc m d∣n) ⟩
   n / d + m * (n / d) ∎
 
+/-step : ∀ {m n n≢0} → m ≥ n → (m / n) {n≢0} ≡ 1 + ((m ∸ n) / n) {n≢0}
+/-step {zero} {zero} {()} _
+/-step {zero} {suc n} {_} ()
```
Comment (MatthewDaggitt) [inline src/Data/Nat/DivMod.agda:233]: You can omit these lines as since 2.6.0 Agda is now clever enough to infer that they are impossible.

File: src/Data/Nat/DivMod.agda [hunk 2]
```diff
@@ -223,6 +228,32 @@ m≥n⇒m/n>0 {m@(suc m-1)} {n@(suc n-1)} m≥n = begin
...
+/-step {suc m} {suc n} {n≢0} m≥n = begin-equality
+  suc m / suc n                          ≡⟨ refl ⟩
```
Comment (MatthewDaggitt) [inline src/Data/Nat/DivMod.agda:235]: You can just write `≡⟨⟩`

File: src/Data/Nat/DivMod.agda [hunk 3]
```diff
@@ -223,6 +228,32 @@ m≥n⇒m/n>0 {m@(suc m-1)} {n@(suc n-1)} m≥n = begin
...
+  ... | yes n<o = trans (m<n⇒m/n≡0 (*-monoʳ-< m n<o)) (sym (m<n⇒m/n≡0 n<o))
+  ... | no ¬n<o = begin-equality
+    ((suc m * n) / (suc m * o)) {mo≢0}                 ≡⟨ /-step (*-monoʳ-≤ (suc m) (≮⇒≥ ¬n<o)) ⟩
+    1 + ((suc m * n ∸ suc m * o) / (suc m * o)) {mo≢0} ≡⟨ cong suc (/-congˡ {o = suc m * o} (sym (*-distribˡ-∸ (suc m) n o))) ⟩
+    1 + ((suc m * (n ∸ o)) / (suc m * o)) {mo≢0}       ≡⟨ cong suc (/-cancelˡ-Acc (suc m) (rec ((n ∸ o)) n∸o<n) o) ⟩
+    1 + ((n ∸ o) / o) {o≢0}                            ≡⟨ sym (cong₂ _+_ (n/n≡1 o) refl) ⟩
+    (o / o) {o≢0} + ((n ∸ o) / o) {o≢0}                ≡⟨ sym (+-distrib-/-∣ˡ (n ∸ o) (divides 1 ((sym (*-identityˡ o))))) ⟩
+    ((o + (n ∸ o)) / o) {o≢0}                          ≡⟨ /-congˡ {o = o} (m+[n∸m]≡n (≮⇒≥ ¬n<o)) ⟩
+    (n / o) {o≢0}                                      ∎
+      where n∸o<n = ∸-monoʳ-< {n} {o} {0} (n≢0⇒n>0 (toWitnessFalse o≢0)) (≮⇒≥ ¬n<o)
```
Comment (MatthewDaggitt) [inline src/Data/Nat/DivMod.agda:255]: `where` should not be indented

File: src/Data/Nat/DivMod.agda [hunk 4]
```diff
@@ -223,6 +228,32 @@ m≥n⇒m/n>0 {m@(suc m-1)} {n@(suc n-1)} m≥n = begin
...
+  suc m / suc n                          ≡⟨ refl ⟩
+  div-helper zero n (suc m) n            ≡⟨ divₕ-restart n (suc m) n m≥n ⟩
+  div-helper 1 n (suc m ∸ suc n) n       ≡⟨ divₕ-extractAcc 1 n (suc m ∸ suc n) n ⟩
+  1 + (div-helper 0 n (suc m ∸ suc n) n) ≡⟨ refl ⟩
+  1 + ((suc m ∸ suc n) / suc n)          ∎
+
+/-cancelˡ : ∀ m n o {o≢0} {mo≢0} → ((m * n) / (m * o)) {mo≢0} ≡ (n / o) {o≢0}
+/-cancelˡ m n o {o≢0} {mo≢0} = /-cancelˡ-Acc m (<-wellFounded n) o
+  where
+  /-cancelˡ-Acc : ∀ m {n} → (Acc _<_ n) → ∀ o {o≢0} {mo≢0} → ((m * n) / (m * o)) {mo≢0} ≡ (n / o) {o≢0}
```
Comment (MatthewDaggitt) [inline src/Data/Nat/DivMod.agda:244]: The `m` and `o` arguments do not change, therefore you don't need to add them to the type of `/-cancelˡ-Acc`. You should be able to get away with the much nicer type:
```agda
/-cancelˡ-Acc : ∀ {n} → Acc _<_ n → ((m * n) / (m * o)) {mo≢0} ≡ (n / o) {o≢0}
```

File: src/Data/Nat/DivMod.agda [hunk 5]
```diff
@@ -223,6 +228,32 @@ m≥n⇒m/n>0 {m@(suc m-1)} {n@(suc n-1)} m≥n = begin
...
+  /-cancelˡ-Acc (suc m) {n} (acc rec) o {o≢0} {mo≢0} with n <? o
```
Comment (MatthewDaggitt) [inline src/Data/Nat/DivMod.agda:245]: I'd use `m@(suc m-1)` instead of `(suc m)` so you can avoid writing `suc m` everywhere!

File: src/Data/Nat/DivMod/Core.agda [hunk 6]
```diff
@@ -128,28 +128,11 @@ private
   div-cong₃ : ∀ {c n a₁ a₂ b} → a₁ ≡ a₂ → divₕ c n a₁ b ≡ divₕ c n a₂ b
   div-cong₃ refl = refl
 
-  divₕ-restart : ∀ {acc} d n j → j < n → divₕ acc d n j ≡ divₕ (suc acc) d (n ∸ suc j) d
```
Comment (MatthewDaggitt) [inline src/Data/Nat/DivMod/Core.agda:131]: Out of interest, why have you rearranged the proofs in this file? Are there actually any changes? If not, could you revert them back to how they were. No sense in messing up the Git history unnecessarily!

File: src/Data/Nat/DivMod.agda [hunk 7]
```diff
@@ -223,6 +228,32 @@ m≥n⇒m/n>0 {m@(suc m-1)} {n@(suc n-1)} m≥n = begin
   n / d + (m * n) / d ≡⟨ cong (n / d +_) (*-/-assoc m d∣n) ⟩
   n / d + m * (n / d) ∎
 
+/-step : ∀ {m n n≢0} → m ≥ n → (m / n) {n≢0} ≡ 1 + ((m ∸ n) / n) {n≢0}
```
Comment (MatthewDaggitt) [inline src/Data/Nat/DivMod.agda:231]: This proof is missing from the CHANGELOG. I'd probably also rename it something a little bit more informative, e.g. `m/n≡1+[m∸n]/n`

File: src/Data/Nat/DivMod.agda [hunk 8]
```diff
@@ -223,6 +228,32 @@ m≥n⇒m/n>0 {m@(suc m-1)} {n@(suc n-1)} m≥n = begin
...
+/-step {zero} {zero} {()} _
+/-step {zero} {suc n} {_} ()
+/-step {suc m} {suc n} {n≢0} m≥n = begin-equality
```
Comment (MatthewDaggitt) [inline src/Data/Nat/DivMod.agda:234]: I'd use `{m@(suc m-1)}` and `{n@(suc n-1)}` instead of `{suc m}` and `{suc n}` so you can avoid writing `suc` everywhere!

File: src/Data/Nat/DivMod.agda [hunk 9]
```diff
@@ -223,6 +228,32 @@ m≥n⇒m/n>0 {m@(suc m-1)} {n@(suc n-1)} m≥n = begin
...
+
+/-cancelˡ : ∀ m n o {o≢0} {mo≢0} → ((m * n) / (m * o)) {mo≢0} ≡ (n / o) {o≢0}
+/-cancelˡ m n o {o≢0} {mo≢0} = /-cancelˡ-Acc m (<-wellFounded n) o
+  where
+  /-cancelˡ-Acc : ∀ m {n} → (Acc _<_ n) → ∀ o {o≢0} {mo≢0} → ((m * n) / (m * o)) {mo≢0} ≡ (n / o) {o≢0}
+  /-cancelˡ-Acc (suc m) {n} (acc rec) o {o≢0} {mo≢0} with n <? o
+  ... | yes n<o = trans (m<n⇒m/n≡0 (*-monoʳ-< m n<o)) (sym (m<n⇒m/n≡0 n<o))
+  ... | no ¬n<o = begin-equality
+    ((suc m * n) / (suc m * o)) {mo≢0}                 ≡⟨ /-step (*-monoʳ-≤ (suc m) (≮⇒≥ ¬n<o)) ⟩
+    1 + ((suc m * n ∸ suc m * o) / (suc m * o)) {mo≢0} ≡⟨ cong suc (/-congˡ {o = suc m * o} (sym (*-distribˡ-∸ (suc m) n o))) ⟩
```
Comment (MatthewDaggitt) [inline src/Data/Nat/DivMod.agda:249]: You can use the symmetric reasoning operator `≡˘⟨ ... ⟩` to shorten any of the lines in this proof that require symmetry.

**Review by MatthewDaggitt — COMMENTED** [review]
Thanks for the PR @lexvanderstoep! Added few minor comments about how to improve the proofs.

File: src/Data/Nat/DivMod.agda (hunk 8 above)
Comment (lexvanderstoep) [reply src/Data/Nat/DivMod.agda:234]: I was looking for a way to avoid all those `suc`s actually! Didn't know there was such an argument alias construct... Nice

File: src/Data/Nat/DivMod.agda (hunk 4 above)
Comment (lexvanderstoep) [reply src/Data/Nat/DivMod.agda:244]: Indeed much nicer!

File: src/Data/Nat/DivMod/Core.agda (hunk 6 above)
Comment (lexvanderstoep) [reply src/Data/Nat/DivMod/Core.agda:131]: The `divₕ-restart` and `divₕ-finish` proofs are being used in the `m<n⇒m/n≡0` and `m/n≡1+[m∸n]/n` proofs in the other file, but they were in the private section before.

**Comment by lexvanderstoep** [comment]
Thanks for the comments Matthew, they were very helpful!

File: src/Data/Nat/DivMod/Core.agda (hunk 6 above)
Comment (MatthewDaggitt) [reply src/Data/Nat/DivMod/Core.agda:131]: Ah thanks, missed that!

File: CHANGELOG.md [hunk 10]
```diff
@@ -61,6 +61,13 @@ New modules
 Other minor additions
 ---------------------
 
+* Added new proofs to `Data.Nat.DivMod`:
+  ```agda
+  m<n⇒m/n≡0 : ∀ {m n n≢0} → m < n → (m / n) {n≢0} ≡ 0
+  m/n≡1+[m∸n]/n : ∀ {m n n≢0} → m ≥ n → (m / n) {n≢0} ≡ 1 + ((m ∸ n) / n) {n≢0}
+  /-cancelˡ : ∀ m n o {o≢0} {mo≢0} → ((m * n) / (m * o)) {mo≢0} ≡ (n / o) {o≢0}
```
Comment (MatthewDaggitt) [inline CHANGELOG.md:68]: In the CHANGELOG for readability we usually miss out the universally quantification of arguments, e.g. the first one would become just `m < n → (m / n) {n≢0} ≡ 0`. Otherwise looks good to go :+1:

Comment (lexvanderstoep) [reply CHANGELOG.md]: Done :) Cheers for the comments Matthew!
